US04427590
84 g of 3,4-dihydro-2H-pyran and 132 g of glycolic acid butyl ester are dissolved at room temperature. To this solution are added 0.5 ml of concentrated hydrochloric acid, whereupon the temperature immediately rises to 90°. The solution is cooled to room temperature and stirred for 2 hours. After the addition of 1 g of sodium bicarbonate, the crude product is distilled under 17 Torr to obtain 2-(tetrahydropyran-2-yloxy)-acetic acid butyl ester, B.P. 127°/17 Torr.

reactant | 3,4-dihydro-2H-pyran | 84 g | O1CCCC=C1 | C5H8O
reactant | glycolic acid butyl ester | 132 g | C(CCC)OC(CO)=O | C6H12O3
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | sodium bicarbonate | 1 g | C([O-])(O)=O.[Na+]
product | 2-(tetrahydropyran-2-yloxy)-acetic acid butyl ester | C(CCC)OC(COC1OCCCC1)=O | C11H20O4
